US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Ethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate
Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (100 mg) was dissolved in water saturated 4-methyl-2-pentanone (18 ml) at room temperature. Immobilised Mucor miehei lipase immobilised on accurel EP 100 load: 187 klu/g (1 mg was added and the reaction mixture was shaken. The conversion of the racemic or enantiomerically enriched mixture of the ester was followed by the described isocratic HPLC procedures 1 and 2. Stirring was stopped at different times and ½ ml of the reaction mixture without enzyme was removed. Stirring was stopped after 4 hours and the reaction mixture stored at 3° C. for 18 hours. After this period of time the stirring of the reaction mixture was continued at room temperature.

reactant | Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 100 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
solvent | water | 18 ml | O | H2O
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Ethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C13H18O4.C11H14O4/c1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,12,14H,3-4,9H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t12-;10-/m10/s1
